US07939562B2
Preparation of 11-(3-pentyloxiranyl)undec-9-enoic acid {4-[11-(3-pentyloxiranyl)undec-9-enoylamino]butyl}amide
Precursor 8 was prepared from methyl vernolate and 1,4-diaminobutane according to the procedure described in Example 1(f) and shown in Scheme 11.

reactant | methyl vernolate | CCCCC[C@@H]1[C@@H](O1)C/C=C\CCCCCCCC(=O)OC | C19H34O3
reactant | 1,4-diaminobutane | NCCCCN | C4H12N2
product | 11-(3-pentyloxiranyl)undec-9-enoic acid {4-[11-(3-pentyloxiranyl)undec-9-enoylamino]butyl}amide | C(CCCC)C1C(O1)CC=CCCCCCCCC(=O)NCCCCNC(CCCCCCCC=CCC1OC1CCCCC)=O | C40H72N2O4
